US07632829B2
(rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-[3-hydroxy-4-(3-hydroxy-piperidin-1-yl)-butyl]-[1,4]diazepan-5-one
In analogy to the procedure described for example 167D, (rac)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(2-oxiranyl-ethyl)-[1,4]diazepan-5-one and 3-hydroxypiperidine gave the title compound as yellow oil. MS: 484.2 (MH+, 2Cl).

reactant | (rac)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-4-(2-oxiranyl-ethyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCC1OC1 | C18H20Cl2N2O3
reactant | 3-hydroxypiperidine | OC1CNCCC1 | C5H11NO
product | (rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-[3-hydroxy-4-(3-hydroxy-piperidin-1-yl)-butyl]-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCC(CN1CC(CCC1)O)O | C23H31Cl2N3O4
